US07666871B2
3-Methoxy-5-[4-(5-methyl-4-{2-[(2R)-2-methylpyrrolidin-1-yl]ethyl}-1,3-oxazol-2-yl)phenyl]pyridine
To a solution of palladium (II) acetate (0.004 g, 0.02 mmol) in anhydrous toluene (5 mL), add triphenylphosphine (0.019 g, 0.07 mmol), under nitrogen and at room temperature. Stir for 15 minutes then add distilled water (1.5 mL), ethanol (1 mL), 3-methoxypyridine-5-boronic acid pinacol ester (0.26 g, 1.10 mmol), 2-(4-bromophenyl)-4-{2-[(2R)-2-methylpyrrolidin-1-yl]ethyl}-5-methyl-1,3-oxazole (See Intermediate 73(0.32 g, 0.92 mmol) and potassium carbonate (0.38 g, 2.75 mmol). Heat the reaction mixture at 110° C. overnight. Cool to room temperature then pour into water. Extract with dichloromethane then concentrate the combined extracts in vacuo. Load onto a 10 g Isolute® SCX-2 column (preconditioned with methanol). Wash the SCX-2 with methanol then elute the target compound with 2N ammonia in methanol solution followed by 7N ammonia in methanol. Concentrate the combined ammonia solutions in vacuo to give a pale yellow solid (0.16 g). Purify using automated flash chromatography (ISCO® System, 12 g Redisep® SiO2 column; 0-30% methanol in ethyl acetate gradient elution over 20 minutes at 30 mL/min) to give the title compound as a pale yellow solid (0.23 g): MS (m/e): 378(M+1).

reactant | triphenylphosphine | 0.07 mmol, 0.019 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-methoxypyridine-5-boronic acid pinacol ester | 1.10 mmol, 0.26 g | COC=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO3
reactant | 2-(4-bromophenyl)-4-{2-[(2R)-2-methylpyrrolidin-1-yl]ethyl}-5-methyl-1,3-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
reactant | potassium carbonate | 2.75 mmol, 0.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.02 mmol, 0.004 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 1.5 mL | O | H2O
product | 3-Methoxy-5-[4-(5-methyl-4-{2-[(2R)-2-methylpyrrolidin-1-yl]ethyl}-1,3-oxazol-2-yl)phenyl]pyridine | 0.16 g | COC=1C=NC=C(C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C23H27N3O2
